US07598264B2
4-hydroxy-N,N,2-trimethyl-3,5-dioxo-2,3,5,6,7,8-hexahydro-2,6-naphthyridine-1-carboxamide
In a 50 mL heavy walled glass pressure flask 4-methoxy-6-(4-methoxybenzyl)-N,N,2-trimethyl-3,5-dioxo-2,3,5,6,7,8-hexahydro-2,6-naphthyridine-1-carboxamide (3.9 g) and 15 ml of (commercial) 33% HBr in HOAc were mixed. The flask was sealed, heated to 75° C. and allowed to stir overnight. The solvent was removed in vacuo. The remaining oil was dissolved in CH3CN and purified by reverse phase on a Biotage KPCM 250 compression module containing a 10 cm×60 cm Kiloprep cartridge. The product elutes at 13% CH3CN in water containing 0.1% TFA.

reactant | 4-methoxy-6-(4-methoxybenzyl)-N,N,2-trimethyl-3,5-dioxo-2,3,5,6,7,8-hexahydro-2,6-naphthyridine-1-carboxamide | 3.9 g | COC=1C(N(C(=C2CCN(C(C12)=O)CC1=CC=C(C=C1)OC)C(=O)N(C)C)C)=O | C21H25N3O5
reactant | HBr | Br | BrH
solvent | HOAc | CC(=O)O | C2H4O2
product | 4-hydroxy-N,N,2-trimethyl-3,5-dioxo-2,3,5,6,7,8-hexahydro-2,6-naphthyridine-1-carboxamide | OC=1C(N(C(=C2CCNC(C12)=O)C(=O)N(C)C)C)=O | C12H15N3O4
